US07598423B2
Synthesis of 3-{[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile
A mixture of 3-{[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile (0.5 g, 1.29 mmol) and dichloromethane (15 mL) is stirred at −78° C. Diethylaminosulfur trifluoride (0.2 mL, 1.48 mmol) is added and the reaction is warmed to room temperature and stirred 30 min. The mixture is cooled to 0° C. and diluted with water (50 mL). The layers are separated, and the aqueous layer is extracted with dichloromethane (3×50 mL). The organic layers are combined, dried on magnesium sulfate, filtered, and concentrated. The residue is purified via silica chromatography eluting with hexanes to 7:3 hexanes:ethyl acetate to give the title compound (400 mg, 80%) as a white solid. LCMS M+1 390.

reactant | 3-{[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile | 1.29 mmol, 0.5 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)O)C=C1)C)O | C24H21NO4
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | Diethylaminosulfur trifluoride | 1.48 mmol, 0.2 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | water | 50 mL | O | H2O
product | 3-{[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile | 400 mg, 80% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)F)C=C1)C)O | C24H20FNO3
